US08466114B2
To a stirred solution of LAH (3.01 g, 79.10 mmol) in THF (80 mL) at 0° C. was added 2,2-dimethyl-4H-benzo[1,4]oxazin-3-one (7.00 g, 39.5 mmol) in portions and stirred the reaction mixture at 25° C. for 1 h and then 50° C. for 3 h. Reaction mixture was quenched by the addition cold saturated sodium sulfate solution and it was filtered through celite and extracted with DCM (100 mL×2), washed with brine (50 mL), dried over sodium sulfate, concentrated to give 2,2-dimethyl-3,4-dihydro-2H-benzo[1,4]oxazine (6.09 g), which was used as such for the next reaction without purification

reactant | LAH | 79.10 mmol, 3.01 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | 39.5 mmol, 7.00 g | CC1(OC2=C(NC1=O)C=CC=C2)C | C10H11NO2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 2,2-dimethyl-3,4-dihydro-2H-benzo[1,4]oxazine | 6.09 g | CC1(OC2=C(NC1)C=CC=C2)C | C10H13NO
